US07544688B2
B. 4-(2,2-Dimethyl-propylamino)-5-[3-oxo-3-(4-[1,2,3]triazol-1-yl-phenyl)-prop-1-ynyl]-pyrimidine-2-carbonitrile
4-[1,2,3]Triazol-1-yl-benzoic acid (5.0 mmol) is dissolved in CH2Cl2 (20 ml). Oxalyl chloride (3.5 mmol) and DMF (1 drop) are added at room temperature and the reaction mixture is stirred at room temperature for 3 h, then evaporated. The residue is dissolved in CH2C2 (20 ml) and the mixture is added to 4-(2,2-dimethyl-propylamino)-5-ethynyl-pyrimidine-2-carbonitrile, copper (I) iodide (0.13 mmol) and triethylamine (13.0 mmol) at room temperature. The reaction mixture is stirred for overnight at room temperature. The organic layer is washed with brine, dried over magnesium sulfate and concentrated. The crude product is purified by silica gel column chromatography to give the product in 31% yield. Rf=0.02 (n-hexane:AcOEt=2:1)

reactant | 4-[1,2,3]Triazol-1-yl-benzoic acid | 5.0 mmol | N1(N=NC=C1)C1=CC=C(C(=O)O)C=C1 | C9H7N3O2
reactant | Oxalyl chloride | 3.5 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2,2-dimethyl-propylamino)-5-ethynyl-pyrimidine-2-carbonitrile | CC(CNC1=NC(=NC=C1C#C)C#N)(C)C | C12H14N4
reactant | triethylamine | 13.0 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.13 mmol | [Cu]I
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 4-(2,2-Dimethyl-propylamino)-5-[3-oxo-3-(4-[1,2,3]triazol-1-yl-phenyl)-prop-1-ynyl]-pyrimidine-2-carbonitrile | 31% yield | CC(CNC1=NC(=NC=C1C#CC(C1=CC=C(C=C1)N1N=NC=C1)=O)C#N)(C)C | C21H19N7O
